US05935972
5-[1,2,3]Triazol-1-yl-benzofuran-7-carbaldehyde
A solution of 1-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-4-trimethylsilanyl-1H-[1,2,3]triazole (180 mg) in potassium hydroxide (0.1 g), water (10 ml) and methanol (10 ml) was stirred for 18 h at room temperature. The solvent was removed, diluted with water (10 ml) and extracted with dichloromethane (3×15 ml). The organic extracts were washed with water (10 ml), dried, and evaporated. The residual oil was dissolved in hydrochloric acid (2M; 10 ml) and tetrahydrofuran (10 ml) and stirred at 70° for 30 min. The solution was cooled, basified with 1M sodium carbonate solution and extracted with dichloromethane (3×20 ml). The combined extracts were dried, and evaporated to give the title compound as a pale cream coloured solid (74 mg).

reactant | 1-(7-[1,3]dioxan-2-yl-benzofuran-5-yl)-4-trimethylsilanyl-1H-[1,2,3]triazole | 180 mg | O1C(OCCC1)C1=CC(=CC=2C=COC21)N2N=NC(=C2)[Si](C)(C)C | C17H21N3O3Si
solvent | potassium hydroxide | 0.1 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | 5-[1,2,3]Triazol-1-yl-benzofuran-7-carbaldehyde | N1(N=NC=C1)C=1C=C(C2=C(C=CO2)C1)C=O | C11H7N3O2
